US07456211B2
To a solution of (R)-4-butyl-1-[(S)-1-phenylethyl]pyrrolidin-2-one (1.4 g, 5.7 mmol) in dry tetrahydrofuran (10 mL) at −78° C. was added condensed liquid ammonia (100 mL). Freshly cut sodium (0.66 g, 28.5 mmol) was added and the resulting mixture was stirred at −78° C. for 2 h. The reaction was quenched with solid ammonium chloride. Ammonia was evaporated by warming up the reaction mixture slowly to room temperature. Water (50 mL) was added and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The residue was purified by flash column chromatography (silica gel, 4:1 EtOAc/acetone) to afford 0.7 g (87%) of (R)-4-butylpyrrolidin-2-one as a colorless oil: [α]D=+0.95° (c=0.60, CH2Cl2) {lit. [α]D=−0.67° (c=0.60, CH2Cl2) for (S)-enantiomer, Meyers, A. I. and Snyder, L. 1993, J. Org. Chem. 58, 36-42}; 1H NMR (CDCl3) δ 6.07 (bs, 1 H), 3.48 (t, 1 H), 3.02 (t, 1 H), 2.45 (m, 2 H), 1.99 (m, 1 H), 1.22-1.50 (m, 6 H), 0.90 (t, 3 H). MS(ES) m/e 142 [M+H]+.

reactant | (R)-4-butyl-1-[(S)-1-phenylethyl]pyrrolidin-2-one | 5.7 mmol, 1.4 g | C(CCC)[C@@H]1CC(N(C1)[C@@H](C)C1=CC=CC=C1)=O | C16H23NO
reactant | ammonia | 100 mL | N | H3N
reactant | sodium | 28.5 mmol, 0.66 g | [Na] | Na
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (R)-4-butylpyrrolidin-2-one | 0.7 g, 87% | C(CCC)[C@@H]1CC(NC1)=O | C8H15NO
